US05942547
Preparation 2-Deoxystreptamine (2-DOS)
To a 1 L round bottom flask equipped with a condenser was added neomycin sulfate (27.2 g, 0.03 mol) and HBr (48%, 300 mL). The solution was heated at reflux for 20 hrs. Upon cooling to room temperature, the black solution was concentrated to dryness under reduced pressure. H2O (100 mL) was then added to the black solid, and after vigorous stirring, the slurry was filtered and the filtrate was lyophilized. The dark brown solid obtained was washed with 150 mL of 1:2:1 CHCl3 :MeOH:NH3 (con.) and the residue was stirred in 450 mL of hot 1:1 H2O:MeOH solution to dissolve most of the material. This solution was filtered and the filtrate was allowed to stand at room temperature overnight. The water:methanol mixture was filtered again and the filtrate was lyophilized. The light brown solid obtained was washed with 100 mL of 1:1 EtOH:H2O to remove NH4Br. The remaining solid (ca. 9 g) was dissolved in minimal H2O and was purified by passing over Amberlite 440C ion-exchange resin (OH- form, 90 g). The fractions were assayed with ninhydrin. This afforded 2.36 g (48%) of white 2-DOS free base. TLC Rf 0.41 (1:4:2:1 CHCl3 :MeOH:NH3 (con.): H2O); mp 212° C. (dec.);

reactant | neomycin sulfate | 0.03 mol, 27.2 g | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)N)O[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O[C@@H]4[C@@H]([C@H]([C@@H]([C@@H](O4)CN)O)O)N)O)O)N.OS(=O)(=O)O
solvent | HBr | 300 mL | Br | BrH
product | 2-Deoxystreptamine | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O)O)O)N | C6H14N2O3
